US08124606B2
Compound 64A: Methyl 5-amino-6-(1H-imidazol-1-yl)nicotinate:
Methyl 6-chloro-5-nitronicotinate (2.17 g, 10.0 mmol) was dissolved in ethyl acetate (55 mL) and imidazole (4.09 g, 60 mmol) was added. The reaction mixture was stirred at room temperature for 2 h and treated with SnCl2-2H2O (13.5 g, 60.0 mmol). It was heated to 70° C. for 2 h, diluted with potassium carbonate (sat. aq.) and extracted with ethyl acetate (5×20 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a crude yellow solid, which was used in the next step without further purification. [M+H] calc'd for C10H10N4O2, 219; found, 219.

reactant | Methyl 6-chloro-5-nitronicotinate | 10.0 mmol, 2.17 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | imidazole | 60 mmol, 4.09 g | N1C=NC=C1 | C3H4N2
solvent | ethyl acetate | 55 mL | C(C)(=O)OCC | C4H8O2
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Methyl 5-amino-6-(1H-imidazol-1-yl)nicotinate | NC=1C(=NC=C(C(=O)OC)C1)N1C=NC=C1 | C10H10N4O2
